US07745641B2
7-Amino-4-(4-hydroxy-3-methoxyphenyl)isoindolinone (50.0 mg, 0.185 mmol) was dissolved in acetonitrile (2.5 mL), and the solution was added with tert-butyldimethylsilyl chloride (33.5 mg, 0.222 mmol), 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) (0.033 mL, 0.22 mmol), followed by stirring at room temperature for 1.3 hours. The mixture was added with tert-butyldimethylsilyl chloride (33.5 mg, 0.222 mmol) and DBU (0.033 mL, 0.22 mmol), followed by further stirring for 1 hour. The reaction mixture was added with water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by preparative thin-layer chromatography (chloroform/acetonitrile=2/1) to obtain 7-amino-4-(4-tert-butyldimethylsilyloxy-3-methoxyphenyl)isoindolinone (51.1 mg, yield 72%).

reactant | 7-Amino-4-(4-hydroxy-3-methoxyphenyl)isoindolinone | 0.185 mmol, 50.0 mg | NC=1C=CC(=C2CNC(C12)=O)C1=CC(=C(C=C1)O)OC | C15H14N2O3
reactant | tert-butyldimethylsilyl chloride | 0.222 mmol, 33.5 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.22 mmol, 0.033 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | tert-butyldimethylsilyl chloride | 0.222 mmol, 33.5 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | DBU | 0.22 mmol, 0.033 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | water | O | H2O
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
product | 7-amino-4-(4-tert-butyldimethylsilyloxy-3-methoxyphenyl)isoindolinone | 51.1 mg, yield 72% | NC=1C=CC(=C2CNC(C12)=O)C1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)OC | C21H28N2O3Si
